US04544670
Step I. The preparation of 2,6-dichlorocinnamoyl chloride
A solution of 20% thionyl chloride in toluene is added dropwise to a magnetically stirred, warmed mixture of 2,6-dichlorocinnamic acid (20.74 g) in toluene (119 ml) and the mixture brought to reflux for 6 hrs after it clears to a yellow haze. The reaction mixture is cooled overnight, filtered and concentrated in vacuo to afford a pale yellow solid, M.P. 64.5°-66° C.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2,6-dichlorocinnamic acid | 20.74 g | ClC1=C(C=CC(=O)O)C(=CC=C1)Cl | C9H6Cl2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 119 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-dichlorocinnamoyl chloride | ClC1=C(C=CC(=O)Cl)C(=CC=C1)Cl | C9H5Cl3O
